US05081138
1-(p-Chlorobenzyl)-α,α-dimethyl-5-isopropyl -3-(2-isopropylphenylthio)indole-2-propanoic acid
Following the procedure of Example 104, but using 1-(p-chlorobenzyl)-1-[4-(i-propyl)phenyl]hydrazine hydrochloride and methyl 2,2-dimethyl-4-oxo-5-(2-isopropylphenylthio)pentanoate as starting materials followed by hydrolysis at reflux gave the title compound, m.p. 142°-143°.

reactant | 1-(p-chlorobenzyl)-1-[4-(i-propyl)phenyl]hydrazine hydrochloride | Cl.ClC1=CC=C(CN(N)C2=CC=C(C=C2)C(C)C)C=C1
reactant | methyl 2,2-dimethyl-4-oxo-5-(2-isopropylphenylthio)pentanoate | CC(C(=O)OC)(CC(CSC1=C(C=CC=C1)C(C)C)=O)C | C17H24O3S
product | 1-(p-Chlorobenzyl)-α,α-dimethyl-5-isopropyl -3-(2-isopropylphenylthio)indole-2-propanoic acid | ClC1=CC=C(CN2C(=C(C3=CC(=CC=C23)C(C)C)SC2=C(C=CC=C2)C(C)C)CC(C(=O)O)(C)C)C=C1 | C32H36ClNO2S
